US04502882
N-[(4-Methoxy-6-methylpyrimidin-2-yl)aminocarbonyl]-2,2-dimethyl-1,3-benzodioxole-4-sulfonamide
To a solution of 0.55 g 2,2-dimethyl-1,3-benzodioxole-4-sulfonamide, prepared in Example 1, in 30 ml methylene chloride at ambient temperature under nitrogen was added 1.2 ml of trimethylaluminum (2M in toluene). After stirring 15 minutes at ambient temperature, 0.47 g of methyl[4-methoxy-6-methylpyrimidin-2-yl]carbamate, prepared according to the procedure of Example 3, was added and the reaction mixture was heated at reflux 16 hours. The reaction mixture was cooled to ambient temperature and 75 ml H2O, 10 ml glacial acetic acid, and 10 drops hydrochloric acid were sequentially added. The organic phase was separated, dried, and the solvent removed under reduced pressure to give an oil. Crystallization of the oil from a mixture of butyl chloride, hexane and ether gave 0.25 g white solid, m.p. 180°-183° C. The infrared spectrum showed a carbonyl absorption at 1705 cm-1 indicative of the title compound.

reactant | 2,2-dimethyl-1,3-benzodioxole-4-sulfonamide | 0.55 g | CC1(OC2=C(O1)C=CC=C2S(=O)(=O)N)C | C9H11NO4S
reactant | trimethylaluminum | 2M, 1.2 ml | C[Al](C)C
reactant | methyl[4-methoxy-6-methylpyrimidin-2-yl]carbamate | 0.47 g | COC(NC1=NC(=CC(=N1)OC)C)=O | C8H11N3O3
reactant | H2O | 75 ml | O | H2O
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
catalyst | hydrochloric acid | 10 drops | Cl | ClH
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | N-[(4-Methoxy-6-methylpyrimidin-2-yl)aminocarbonyl]-2,2-dimethyl-1,3-benzodioxole-4-sulfonamide | 0.25 g | COC1=NC(=NC(=C1)C)NC(=O)NS(=O)(=O)C1=CC=CC=2OC(OC21)(C)C | C16H18N4O6S
